* C:\Users\bubba\OneDrive\Documents\LTspice\BOOST-github\LTspice\BOOST\BOOST.asc
* Generated by LTspice 26.0.1 for Windows.
V1 P001 0 14
L1 LX rsense_lo 6.8µ Ipk=55 Rser=1.6m
X§M1 LX GATE_M1 0 HYG180N10 ;§pnba D)G)S
X§M2 Vout_1 GATE_M2 m2_source HYG180N10 ;§pnba D)G)S
C1 Vout_1 0 4.7µ
R1 rsense_lo Vin 2m
V§Reference_V1 Vref_1 0 2
A§set 0 set- 0 Out- 0 Out 0 0 AND Vhigh=5 Vlow=0 Vt=2.5 Td=5n Trise=2n Tfall=2n Rhigh=25 Rlow=15
A§reset 0 Out 0 RESET- 0 Out- 0 0 AND Vhigh=5 Vlow=0 Vt=2.5 Td=5n Trise=2n Tfall=2n Rhigh=25 Rlow=15
A4 0 VerrGT0 0 0A_hi 0 N007 0 0 AND Vhigh=5 Vlow=0 Vt=2.5 Td=5n Trise=2n Tfall=2n Rhigh=25 Rlow=15
R2 N024 .1Vout_1 10k
R3 Voltage_err_1 N024 620k
R6 Vref_1 .1Vref_1 10k
R8 .1Vout_1 0 2k
R9 .1Vout_1 Vout_1 18k
R14 LX 0 1Meg
R11 0A_hi N008 510k
R16 N008 0 5.1k
R17 N008 VDD 510k
R18 0err_hi N006 200k
R19 N006 0 5.1k
R20 N006 VDD 200k
X§U2 N008 Current VDD 0 0A_hi MCP6561 ;§pnba In+)In-)V+)V-)OUT
X§U4 N006 V_err VDD 0 0err_hi MCP6561 ;§pnba In+)In-)V+)V-)OUT
X§U5 Current V_err VDD 0 Reset_raw MCP6561 ;§pnba In+)In-)V+)V-)OUT
R27 Voltage_err_1 Verr1 4.7k
R28 0 Verr1 100k
X§M3 Vout_2 GATE_M3 m3_source HYG180N10 ;§pnba D)G)S
C3 Vout_2 0 100n
X§M4 Vout_3 GATE_M4 m4_source HYG180N10 ;§pnba D)G)S
V§Reference_V2 Vref_2 0 3
R31 N034 .1Vout_2 10k
R32 Voltage_err_2 N034 620k
R33 Vref_2 .1Vref_2 10k
R34 .1Vout_2 0 2k
R35 .1Vout_2 Vout_2 18k
R37 Voltage_err_2 Verr2 4.7k
R38 0 Verr2 100k
V§Reference_V3 Vref_3 0 3
R39 N045 .1Vout_3 10k
R40 Voltage_err_3 N045 620k
R42 .1Vout_3 0 2k
R43 .1Vout_3 Vout_3 18k
R45 Voltage_err_3 Verr3 4.7k
R46 0 Verr3 100k
X§U8 4 Out- low_error_timeout OUT_1_ENA OUT_2_ENA OUT_3_ENA 4 5 6 7 8 9 10 N015 VDD 0 CD4017B VDD=5 SPEED=1.35 TRIPDT=5e-9 ;§pnba MR)CPN)CP)Q0)Q1)Q2)Q3)Q4)Q5)Q6)Q7)Q8)Q9)Q59
X§M5 LX GATE_M5 m4_source HYG180N10 ;§pnba D)G)S
X§M6 LX GATE_M6 m3_source HYG180N10 ;§pnba D)G)S
X§M7 LX GATE_M7 m2_source HYG180N10 ;§pnba D)G)S
X§U9 OUT_1_ENA OUT_2_ENA OUT_3_ENA 0 Verr1 Verr1 Verr2 NC_01 Verr3 NC_02 NC_03 NC_04 V_err VDD 0 0 4051 ;§pnba A)B)C)INH)IO0)IO1)IO2)IO3)IO4)IO5)IO6)IO7)IOC)VDD)VSS)VEE
A8 0 Out- 0 ena_out_1 0 N018 0 0 AND Vhigh=5 Vlow=0 Vt=2.5 Td=5n Trise=2n Tfall=2n Rhigh=25 Rlow=15
A10 0 Out- 0 ena_out_2 0 N038 0 0 AND Vhigh=5 Vlow=0 Vt=2.5 Td=5n Trise=2n Tfall=2n Rhigh=25 Rlow=15
A12 0 ena_out_3 0 Out- 0 N051 0 0 AND Vhigh=5 Vlow=0 Vt=2.5 Td=5n Trise=2n Tfall=2n Rhigh=25 Rlow=15
X§M9 Output2_drain P002 N031 HYG180N10 ;§pnba D)G)S
R53 N031 0 .05
V§Iref2 N036 0 2.25
R54 N033 N036 1800
R55 0 N033 100
X§M8 Output3_drain N043 N042 HYG180N10 ;§pnba D)G)S
R7 N042 0 .05
V§Iref3 N047 0 220µ
R10 N044 N047 1800
R29 0 N044 100
X§M10 Output1_drain N023 N022 HYG180N10 ;§pnba D)G)S
R52 N022 0 .05
V§Iref1 N027 0 2.5
R57 N025 N027 1800
R58 0 N025 100
Q1 0 N002 N004 0 PNP
R65 N002 N005 22k
R66 0err_hi N004 3.3k
C14 N004 0 220p
R67 low_error_timeout N003 10k
R68 N003 0 62k
R69 N003 VDD 20k
X§U14 N003 N004 VDD 0 low_error_timeout MCP6561 ;§pnba In+)In-)V+)V-)OUT
D3 N005 0err_hi D
D4 N002 N001 D
C15 N001 0 100p
R71 N001 low_error_timeout 1k
X§U13 .1Vref_3 N045 analog_5V 0 Voltage_err_3 MCP6241 ;§pnba In+)In-)V+)V-)OUT
X§U7 .1Vref_2 N034 analog_5V 0 Voltage_err_2 MCP6241 ;§pnba In+)In-)V+)V-)OUT
X§U3 .1Vref_1 N024 analog_5V 0 Voltage_err_1 MCP6241 ;§pnba In+)In-)V+)V-)OUT
C10 0 Verr3 4.7n
C11 0 Verr2 4.7n
C13 0 Verr1 4.7n
X§U1 Vin rsense_lo analog_5V 0 0 Current INA241A3 ;§pnba IN+)IN-)VS)GND)REF)OUT
R4 set- N007 1k
D6 set- low_error_timeout D
A14 0 OUT_1_ENA 0 VerrGT0 0 N012 0 0 AND Vhigh=5 Vlow=0 Vt=2.5 Td=5n Trise=2n Tfall=2n Rhigh=25 Rlow=15
A3 0 OUT_2_ENA 0 VerrGT0 0 N029 0 0 AND Vhigh=5 Vlow=0 Vt=2.5 Td=5n Trise=2n Tfall=2n Rhigh=25 Rlow=15
A7 0 OUT_3_ENA 0 VerrGT0 0 N048 0 0 AND Vhigh=5 Vlow=0 Vt=2.5 Td=5n Trise=2n Tfall=2n Rhigh=25 Rlow=15
R22 N043 P003 100
X§U6 N044 N042 analog_5V 0 P003 MCP6241 ;§pnba In+)In-)V+)V-)OUT
X§U10 out_2_on ena_out_2 VDD 0 0 VDD N039 N035 m3_source N039 N037 m3_source UCC21520 ;§pnba INA)INB)VCCI)GND)DIS)DT)VDDA)VOUTA)VSSA)VDDB)VOUTB)VSSB
R23 N035 GATE_M3 100
C16 N039 m3_source 2.2µ
D9 12V P004 D
R48 P004 N039 5
X§U15 M2_ON ena_out_1 VDD 0 0 VDD N020 N021 m2_source N020 N016 m2_source UCC21520 ;§pnba INA)INB)VCCI)GND)DIS)DT)VDDA)VOUTA)VSSA)VDDB)VOUTB)VSSB
R13 GATE_M2 N021 100
D10 12V P005 D
R21 P005 N020 5
C18 N020 m2_source 2.2µ
D11 GATE_M2 N021 D
R15 N026 GATE_M1 5.1
D12 GATE_M1 N026 D
D14 GATE_M3 N035 D
R51 Out- N019 2k
C19 N019 0 330p
D15 Out- N017 D
R26 N017 N019 220
A17 N017 0 0 0 0 M1_ON 0 0 SCHMITT Vhigh=5 Vlow=0 Vt=2.5 Vh=0.5 Td=4.5n Trise=2n Tfall=2n Rout=20
A9 N018 0 0 0 0 M2_ON 0 0 SCHMITT Vhigh=5 Vlow=0 Vt=2.5 Vh=0.5 Td=4.5n Trise=2n Tfall=2n Rout=20
A18 N051 0 0 0 0 out_3_on 0 0 SCHMITT Vhigh=5 Vlow=0 Vt=2.5 Vh=0.5 Td=4.5n Trise=2n Tfall=2n Rout=20
A11 N038 0 0 0 0 out_2_on 0 0 SCHMITT Vhigh=5 Vlow=0 Vt=2.5 Vh=0.5 Td=4.5n Trise=2n Tfall=2n Rout=20
X§U11 N025 N022 analog_5V 0 P006 MCP6241 ;§pnba In+)In-)V+)V-)OUT
X§U12 N033 N031 analog_5V 0 N032 MCP6241 ;§pnba In+)In-)V+)V-)OUT
R50 P002 N032 100
R56 N023 P006 100
R61 m3_source GATE_M3 10k
A13 N014 0 0 0 0 ena_out_1 0 0 SCHMITT Vhigh=5 Vlow=0 Vt=2.5 Vh=0.45 Td=15n Trise=7n Tfall=7n Rout=50
A2 0err_hi 0 0 0 0 VerrGT0 0 0 SCHMITT Vhigh=5 Vlow=0 Vt=2.5 Vh=0.45 Td=15n Trise=7n Tfall=7n Rout=50
A6 N030 0 0 0 0 ena_out_2 0 0 SCHMITT Vhigh=5 Vlow=0 Vt=2.5 Vh=0.45 Td=15n Trise=7n Tfall=7n Rout=50
A20 N049 0 0 0 0 ena_out_3 0 0 SCHMITT Vhigh=5 Vlow=0 Vt=2.5 Vh=0.45 Td=15n Trise=7n Tfall=7n Rout=50
D16 Vout_1 Output1_drain 100W_LED_RED
D17 Vout_3 Output3_drain 100W_LED_BLUE
D18 Vout_2 Output2_drain 100W_LED_GREEN
C7 VDD 0 47µ
C12 VDD 0 100n
C20 analog_5V 0 100n
C21 analog_5V 0 1µ
C22 VDD 0 100n
C23 VDD 0 100n
C24 VDD 0 100n
C26 VDD 0 100n
C27 0 VDD 1µ
C29 VDD 0 100n
C30 12V 0 47µ
C31 12V 0 1µ
C33 analog_5V 0 100n
C34 analog_5V 0 100n
C35 analog_5V 0 100n
C36 0 analog_5V 100n
C37 0 analog_5V 100n
C38 0 analog_5V 100n
C39 VDD 0 10µ
C41 N044 0 100n
C42 .1Vref_3 0 100n
C43 .1Vref_2 0 100n
C44 N033 0 100n
C45 N025 0 100n
C46 .1Vref_1 0 100n
C47 VDD 0 100n
C48 VDD 0 100n
C50 N039 m3_source 100n
C51 N020 m2_source 100n
C52 VDD 0 100n
C53 0 VDD 100n
C54 VDD 0 100n
C55 analog_5V 0 47µ
C56 analog_5V 0 10µ
X§U16 Vin 12V 0 LM2940_12 ;§pnba IN)OUT)GND
X§U18 Vin VDD 0 L7805 ;§pnba IN)OUT)GND
D19 0 LX TVS_5KP54A
X§U17 Vin analog_5V 0 L7805 ;§pnba IN)OUT)GND
A1 0 Reset_raw 0 M1_ON 0 RESET- 0 0 AND Vhigh=5 Vlow=0 Vt=2.5 Td=5n Trise=2n Tfall=2n Rhigh=25 Rlow=15
D1 0err_hi N017 D
X§U19 M1_ON 0 VDD 0 0 VDD 12V N026 0 12V P007 0 UCC21520 ;§pnba INA)INB)VCCI)GND)DIS)DT)VDDA)VOUTA)VSSA)VDDB)VOUTB)VSSB
C2 0 VDD 1µ
C5 VDD 0 100n
R5 0 N026 10k
R60 N016 GATE_M7 5
D2 GATE_M7 N016 D
X§U20 out_3_on ena_out_3 VDD 0 0 VDD N050 N040 m4_source N050 N041 m4_source UCC21520 ;§pnba INA)INB)VCCI)GND)DIS)DT)VDDA)VOUTA)VSSA)VDDB)VOUTB)VSSB
C57 0 VDD 1µ
C58 VDD 0 100n
C25 12V 0 1µ
C6 12V 0 1µ
R49 GATE_M6 m3_source 10k
D8 GATE_M6 N037 D
R70 N037 GATE_M6 5.1
C60 N050 m4_source 2.2µ
C61 N050 m4_source 100n
R72 N052 N050 5
D21 12V N052 D
R47 GATE_M4 N040 100
D13 GATE_M4 N040 D
R59 GATE_M5 N041 5.1
D22 GATE_M5 N041 D
R73 m4_source N040 10k
R74 m4_source N041 10k
C62 0 VDD 1µ
R77 0 P007 10k
R75 m2_source GATE_M2 10k
R76 m2_source GATE_M7 10k
R63 N046 N048 2k
D5 N048 N049 D
R64 N046 N049 220
C8 0 N046 330p
R78 N028 N029 2k
D7 N029 N030 D
R79 N028 N030 220
C9 0 N028 330p
R80 N009 N012 2k
D20 N012 N014 D
R81 N009 N014 220
C17 0 N009 330p
R82 VDD N010 56k
R83 N011 0 10k
R84 12V N011 120k
X§U21 N010 N011 VDD 0 N013 MCP6561 ;§pnba In+)In-)V+)V-)OUT
C28 VDD 0 100n
D24 N013 N017 D
R85 N010 0 10k
R86 N013 N010 1Meg
R87 Output3_drain N053 910k
R88 N053 0 100k
S1 N053 N054 analog_5V 0 AGATE
X§U22 N056 N054 analog_5V 0 N055 MCP6241 ;§pnba In+)In-)V+)V-)OUT
C32 analog_5V 0 100n
R41 Vref_3 .1Vref_3 10k
C49 N054 N055 100n
R44 analog_5V N056 100k
R89 N056 0 3.3k
C59 N056 0 100n
D23 N055 .1Vref_3 D
R90 N054 N055 10Meg
R25 Output2_drain N058 910k
R36 N058 0 100k
S2 N058 N060 analog_5V 0 AGATE
X§U23 N064 N060 analog_5V 0 N062 MCP6241 ;§pnba In+)In-)V+)V-)OUT
C63 analog_5V 0 100n
C64 N060 N062 100n
R91 analog_5V N064 100k
R92 N064 0 3.3k
C65 N064 0 100n
D25 N062 .1Vref_2 D
R93 N060 N062 10Meg
R94 Output1_drain N057 910k
R95 N057 0 100k
S3 N057 N059 analog_5V 0 AGATE
X§U24 N063 N059 analog_5V 0 N061 MCP6241 ;§pnba In+)In-)V+)V-)OUT
C66 analog_5V 0 100n
C67 N059 N061 100n
R96 analog_5V N063 100k
R97 N063 0 3.3k
C68 N063 0 100n
D26 N061 .1Vref_1 D
R98 N059 N061 10Meg
C69 Vin 0 680µ V=25 Irms=5.4 Rser=0.008 Lser=4n Rpar=147k
C72 Vout_1 0 100n
C73 Vout_2 0 4.7µ
C4 Vout_3 0 4.7µ
C76 Vout_3 0 100n
C79 Vin 0 10µ
C80 Vin 0 10µ
C81 Vin 0 10µ
C82 Vin 0 100n
C83 Vin 0 100n
R99 P008 P001 0.012
C84 Vin 0 100n
C86 Vout_1 0 220µ V=50 Irms=4.5 Rser=0.01 Lser=4n Rpar=455k
L2 Vin P008 0.8µ Rser=1m
C40 Vin 0 680µ V=25 Irms=5.4 Rser=0.008 Lser=4n Rpar=147k
C70 Vout_1 0 220µ V=50 Irms=4.5 Rser=0.01 Lser=4n Rpar=455k
C71 Vout_2 0 220µ V=50 Irms=4.5 Rser=0.01 Lser=4n Rpar=455k
C78 Vout_2 0 220µ V=50 Irms=4.5 Rser=0.01 Lser=4n Rpar=455k
C74 Vout_3 0 220µ V=50 Irms=4.5 Rser=0.01 Lser=4n Rpar=455k
C85 Vin 0 680µ V=25 Irms=5.4 Rser=0.008 Lser=4n Rpar=147k
C77 Vout_3 0 220µ V=50 Irms=4.5 Rser=0.01 Lser=4n Rpar=455k
C87 Vout_2 0 220µ V=50 Irms=4.5 Rser=0.01 Lser=4n Rpar=455k
C75 Vout_3 0 220µ V=50 Irms=4.5 Rser=0.01 Lser=4n Rpar=455k
C88 Vout_1 0 220µ V=50 Irms=4.5 Rser=0.01 Lser=4n Rpar=455k
.model D D
.lib C:\Users\bubba\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\bubba\AppData\Local\LTspice\lib\cmp\standard.bjt
.lib MCP6241.lib
.model SW SW(Ron=0.01 Roff=1Meg Vt=2.5 Vh=0)
.ic V(Out)=0 V(Out-)=1 V(C10)=0 V(C5)=0 V(C2)=0
.include MCP6561.lib
.tran 20m startup uic
.ic I(L1)=0 V(0A_hi)=5
.lib CD4000_v.lib
.lib SwitchAna.lib
.param Vcc=5 Vel=0.2
.lib HYG180N10.lib
.options gmin=100f reltol=0.001
.lib INA241A3.lib
.model LED_RED   D(IS=1.18e-20 N=18 RS=3 CJO=2n)
.model LED_GREEN D(IS=9.5e-25  N=22 RS=4 CJO=2n)
.model LED_BLUE  D(IS=9.5e-25  N=22 RS=4 CJO=2n)
.model 100W_LED_BLUE D(IS=1e-24 N=20.5 RS=0.8 CJO=2n)
.model 100W_LED_RED D(IS=1e-23 N=14.5 RS=0.6 CJO=2n)
.model 100W_LED_GREEN D(IS=1.5e-24 N=20.5 RS=0.9 CJO=2n)
.lib L7805.lib
.lib LM78L05.lib
.lib LM2940_12.lib
.lib TVS_5KP.lib
.meas TRAN Ptvs AVG  (-1)*V(LX)*I(D19) FROM 2m TO 13m
.meas TRAN Etvs INTEG (-1)*V(LX)*I(D19)
* .ic V(Vout_1)=30 V(Vout_2)=38 V(Vout_3)=30
.model AGATE SW(Ron=70 Roff=1e12 Vt=2.5 Vh=0.5)
*==================================================================
*  BOOST full instrumentation - window 35m..39m
*  For a long servo run: change every "FROM 35m TO 39m"
*  to a window inside the settled region, and move the two
*  FIND ... AT times in section 5 to match.
*==================================================================
.ic V(N064)=2.7 V(N065)=3.7 V(N058)=3.7
*--- 1. CAPACITOR RIPPLE CURRENT, per capacitor -------------------
*    compare each against its Irms rating, then derate ~0.85 for
*    28 kHz vs the 100 kHz the rating is quoted at.
*    Also check caps within a bank share evenly.
.meas TRAN Iin_C40   RMS I(C40)   FROM 35m TO 39m
.meas TRAN Iin_C69   RMS I(C69)   FROM 35m TO 39m
.meas TRAN Iin_C85   RMS I(C85)   FROM 35m TO 39m
.meas TRAN Io1_C70   RMS I(C70)   FROM 35m TO 39m
.meas TRAN Io1_C86   RMS I(C86)   FROM 35m TO 39m
.meas TRAN Io2_C71   RMS I(C71)   FROM 35m TO 39m
.meas TRAN Io2_C78   RMS I(C78)   FROM 35m TO 39m
* .meas TRAN Io2_C??   RMS I(C??)   FROM 35m TO 39m   <-- 3rd Vout_2 cap
.meas TRAN Io3_C74   RMS I(C74)   FROM 35m TO 39m
.meas TRAN Io3_C75   RMS I(C75)   FROM 35m TO 39m
.meas TRAN Io3_C77   RMS I(C77)   FROM 35m TO 39m
.meas TRAN Iin_cer   RMS I(C79)   FROM 35m TO 39m
.meas TRAN Io1_cer   RMS I(C1)    FROM 35m TO 39m
*--- 2. RIPPLE VOLTAGE -------------------------------------------
.meas TRAN Vin_avg   AVG V(Vin)     FROM 35m TO 39m
.meas TRAN Vin_pp    PP  V(Vin)     FROM 35m TO 39m
.meas TRAN Vin_min   MIN V(Vin)     FROM 35m TO 39m
.meas TRAN Vo1_avg   AVG V(Vout_1)  FROM 35m TO 39m
.meas TRAN Vo1_pp    PP  V(Vout_1)  FROM 35m TO 39m
.meas TRAN Vo2_avg   AVG V(Vout_2)  FROM 35m TO 39m
.meas TRAN Vo2_pp    PP  V(Vout_2)  FROM 35m TO 39m
.meas TRAN Vo3_avg   AVG V(Vout_3)  FROM 35m TO 39m
.meas TRAN Vo3_pp    PP  V(Vout_3)  FROM 35m TO 39m
*--- 3. POWER STAGE CURRENTS AND CONDUCTION LOSS ------------------
.meas TRAN IL_pk     MAX abs(I(L1))          FROM 35m TO 39m
.meas TRAN IL_rms    RMS I(L1)               FROM 35m TO 39m
.meas TRAN IL_avg    AVG abs(I(L1))          FROM 35m TO 39m
.meas TRAN P_L1      AVG I(L1)*I(L1)*1.6m    FROM 35m TO 39m
.meas TRAN P_R1shunt AVG I(R1)*I(R1)*2m      FROM 35m TO 39m
*--- 4. LX NODE AND TVS ------------------------------------------
*    VLX_max must stay well under the 100 V MOSFET BVDSS
.meas TRAN VLX_max   MAX V(LX)                    FROM 35m TO 39m
.meas TRAN VLX_min   MIN V(LX)                    FROM 35m TO 39m
.meas TRAN Itvs_pk   MAX abs(I(D19))              FROM 35m TO 39m
.meas TRAN Ptvs_ss   AVG (-1)*V(LX)*I(D19)        FROM 35m TO 39m
.meas TRAN Etvs_all  INTEG (-1)*V(LX)*I(D19)
*--- 5. CROSS-CONDUCTION (the safety check) ----------------------
*    (Removed: Dependencies on R62, R12, R24, R30 deleted)
*--- 6. BOOTSTRAP RAILS AND GATE DRIVE ---------------------------
*    Vbs*_min must stay above the 8 V driver UVLO
.meas TRAN Vbs1_min  MIN V(N020,m2_source) FROM 35m TO 39m
.meas TRAN Vbs2_min  MIN V(N041,m3_source) FROM 35m TO 39m
.meas TRAN Vbs3_min  MIN V(N053,m4_source) FROM 35m TO 39m
.meas TRAN Vg_M1max  MAX V(GATE_M1)                 FROM 35m TO 39m
.meas TRAN Vg_M2max  MAX V(GATE_M2,m2_source)       FROM 35m TO 39m
.meas TRAN Vg_M7max  MAX V(GATE_M7,m2_source)       FROM 35m TO 39m
.meas TRAN Vg_M3max  MAX V(GATE_M3,m3_source)       FROM 35m TO 39m
.meas TRAN Vg_M6max  MAX V(GATE_M6,m3_source)       FROM 35m TO 39m
.meas TRAN Vg_M4max  MAX V(GATE_M4,m4_source)       FROM 35m TO 39m
.meas TRAN Vg_M5max  MAX V(GATE_M5,m4_source)       FROM 35m TO 39m
.meas TRAN Ibs1_avg  AVG I(D10)  FROM 35m TO 39m
.meas TRAN Ibs2_avg  AVG I(D9)   FROM 35m TO 39m
.meas TRAN Ibs3_avg  AVG I(D21)  FROM 35m TO 39m
*--- 7. SUPPLY RAILS ---------------------------------------------
.meas TRAN V12_avg   AVG V(12V)        FROM 35m TO 39m
.meas TRAN V12_min   MIN V(12V)        FROM 35m TO 39m
.meas TRAN VDD_min   MIN V(VDD)        FROM 35m TO 39m
.meas TRAN VDD_pp    PP  V(VDD)        FROM 35m TO 39m
.meas TRAN Va5_min   MIN V(analog_5V)  FROM 35m TO 39m
.meas TRAN Va5_pp    PP  V(analog_5V)  FROM 35m TO 39m
.meas TRAN Vpg_avg   AVG V(N013)       FROM 35m TO 39m
*--- 8. CONTROL LOOP HEALTH --------------------------------------
*    Verr_max is the one that matters: it must stay below the
*    INA's 4.98 V clip or RESET can never fire. Clip_marg compares
*    maxima from different cycles and channels, so treat it as
*    indicative only.
.meas TRAN Verr_max  MAX V(V_err)    FROM 35m TO 39m
.meas TRAN Isns_max  MAX V(Current)  FROM 35m TO 39m
.meas TRAN Clip_marg PARAM Isns_max-Verr_max
.meas TRAN Verr1_avg AVG V(Verr1)    FROM 35m TO 39m
.meas TRAN Verr2_avg AVG V(Verr2)    FROM 35m TO 39m
.meas TRAN Verr3_avg AVG V(Verr3)    FROM 35m TO 39m
.meas TRAN Vtimeout  AVG V(low_error_timeout) FROM 35m TO 39m
*--- 9. LED CURRENT, HEADROOM AND SINK DISSIPATION ---------------
*    Vds(sat) is 0.78 V at 2.63 A. Vhead*_min below that means the
*    sink drops into triode on ripple troughs and the LED dims.
.meas TRAN Iled1_avg AVG I(D16) FROM 35m TO 39m
.meas TRAN Iled1_pp  PP  I(D16) FROM 35m TO 39m
.meas TRAN Iled2_avg AVG I(D18) FROM 35m TO 39m
.meas TRAN Iled2_pp  PP  I(D18) FROM 35m TO 39m
.meas TRAN Iled3_avg AVG I(D17) FROM 35m TO 39m
.meas TRAN Iled3_pp  PP  I(D17) FROM 35m TO 39m
.meas TRAN Vhead1min MIN V(Output1_drain,N023) FROM 35m TO 39m
.meas TRAN Vhead1avg AVG V(Output1_drain,N023) FROM 35m TO 39m
.meas TRAN Vhead2min MIN V(Output2_drain,N033) FROM 35m TO 39m
.meas TRAN Vhead2avg AVG V(Output2_drain,N033) FROM 35m TO 39m
.meas TRAN Vhead3min MIN V(Output3_drain,N045) FROM 35m TO 39m
.meas TRAN Vhead3avg AVG V(Output3_drain,N045) FROM 35m TO 39m
.meas TRAN Psink1    AVG V(Output1_drain,N023)*I(D16) FROM 35m TO 39m
.meas TRAN Psink2    AVG V(Output2_drain,N033)*I(D18) FROM 35m TO 39m
.meas TRAN Psink3    AVG V(Output3_drain,N045)*I(D17) FROM 35m TO 39m
.meas TRAN Pled1     AVG V(Vout_1,Output1_drain)*I(D16) FROM 35m TO 39m
.meas TRAN Pled2     AVG V(Vout_2,Output2_drain)*I(D18) FROM 35m TO 39m
.meas TRAN Pled3     AVG V(Vout_3,Output3_drain)*I(D17) FROM 35m TO 39m
.meas TRAN Pshunt1   AVG I(R52)*I(R52)*0.05 FROM 35m TO 39m
*--- 10. POWER BALANCE -------------------------------------------
.meas TRAN Pin       AVG (-1)*V(P001)*I(V1)     FROM 35m TO 39m
.meas TRAN Pcable    AVG I(R99)*I(R99)*0.012    FROM 35m TO 39m
.meas TRAN Pled_tot  PARAM Pled1+Pled2+Pled3
.meas TRAN Psink_tot PARAM Psink1+Psink2+Psink3
.meas TRAN Eff_led   PARAM Pled_tot/Pin
*--- 11. SERVO ---------------------------------------------------
.meas TRAN Vsrv1_avg AVG V(N064) FROM 35m TO 39m
.meas TRAN Vsrv2_avg AVG V(N065) FROM 35m TO 39m
.meas TRAN Vsrv3_avg AVG V(N058) FROM 35m TO 39m
.meas TRAN Vsmp1_avg AVG V(N062) FROM 35m TO 39m
.meas TRAN Vsmp2_avg AVG V(N063) FROM 35m TO 39m
.meas TRAN Vsmp3_avg AVG V(N057) FROM 35m TO 39m
*--- 12. TIMING (delete these two if LTspice complains) ----------
.meas TRAN T_round TRIG V(OUT_1_ENA) VAL=2.5 RISE=1 TD=35m TARG V(OUT_1_ENA) VAL=2.5 RISE=2 TD=35m
.meas TRAN T_M1on  TRIG V(GATE_M1) VAL=6 RISE=1 TD=35m TARG V(GATE_M1) VAL=6 FALL=1 TD=35m
* Library below included based on ModelFile attribute of instance X§U1 (C:\Users\bubba\OneDrive\Documents\LTspice\BOOST-github\LTspice\BOOST\INA241A3.asy)
.lib INA241A3.lib
* Library below included based on ModelFile attribute of instance X§U18, X§U17 (C:\Users\bubba\OneDrive\Documents\LTspice\BOOST-github\LTspice\BOOST\L7805.asy)
.lib L7805.lib
* Library below included based on ModelFile attribute of instance X§U16 (C:\Users\bubba\OneDrive\Documents\LTspice\BOOST-github\LTspice\BOOST\LM2940_12.asy)
.lib LM2940_12.lib
* Library below included based on ModelFile attribute of instance X§U10, X§U15, X§U19, X§U20 (C:\Users\bubba\OneDrive\Documents\LTspice\BOOST-github\LTspice\BOOST\UCC21520.asy)
.lib UCC21520.lib
.backanno
.end
